US04642313
5.0 g of ethyl 2-[2-(4-fluorophenyl)-5-(2-furyl)-4-oxazolyl]acetate, 70 ml of methanol, 10 ml of water and 1.5 g of sodium hydroxide are treated in the same manner as described in Example 16. 4.0 g of 2-[2-(4-fluorophenyl)-5-(2-furyl)-4-oxazolyl]acetic acid are thereby obtained. Yield: 87.7%

reactant | ethyl 2-[2-(4-fluorophenyl)-5-(2-furyl)-4-oxazolyl]acetate | 5.0 g | FC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)OCC)C=1OC=CC1 | C17H14FNO4
reactant | methanol | 70 ml | CO | CH4O
reactant | sodium hydroxide | 1.5 g | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | 2-[2-(4-fluorophenyl)-5-(2-furyl)-4-oxazolyl]acetic acid | 4.0 g, Yield: 87.7% | FC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)O)C=1OC=CC1 | C15H10FNO4
